US20010023249A1
(S)-[1-(2-Amino-4-methyl-pentyl)-piperidin-4-yl]-(4-benzyloxy-phenyl)-(3-methyl-but-2-enyl)-amine
Boc-L-leucinal (0.78 g. 3.64 mmol) was treated with a solution of (4-Benzyloxy-phenyl)-(3-methyl-but-2-enyl)-piperidin-4-yl-amine (1.28 g, 3.64 mmol) in CH2Cl2 (36 mL), stirred 15 minutes, cooled to 0° C., and treated with NaBH(OAc)3 (1.16 g, 5.46 mmol). The reaction was allowed to warm to RT as ice melted and stir 4 hours. The reaction was diluted with EtOAc (200 mL), washed with saturated bicarbonate solution, and brine, dried over Na2SO4, and concentrated. The residue was chromatographed on silica gel eluting with 8% MeOH/CH2Cl2 to give 1.15 g (57%) of the desired product (Id).

reactant | Boc-L-leucinal | 3.64 mmol, 0.78 g | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C=O | C11H21NO3
reactant | (4-Benzyloxy-phenyl)-(3-methyl-but-2-enyl)-piperidin-4-yl-amine | 3.64 mmol, 1.28 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N(C1CCNCC1)CC=C(C)C | C23H30N2O
reactant | NaBH(OAc)3 | 5.46 mmol, 1.16 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 36 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | (S)-[1-(2-Amino-4-methyl-pentyl)-piperidin-4-yl]-(4-benzyloxy-phenyl)-(3-methyl-but-2-enyl)-amine | 1.15 g, 57% | N[C@H](CN1CCC(CC1)N(CC=C(C)C)C1=CC=C(C=C1)OCC1=CC=CC=C1)CC(C)C | C29H43N3O
